US06605629B1
Methyl 4-(3,4-dichlorophenyl)-2-(2-methyl-1-imidazolyl)-5-oxazolepropionate (0.67 g) was dissolved in toluene (5 ml). To the obtained solution was added dropwise a mixture of a 70% toluene solution (0.81 g) of sodium dihydrobis(2-methoxyethoxy)aluminate, and toluene (5 ml) at 0° C., which was stirred at 0° C. for 1 hour. To the reaction mixture was carefully added a 10% aqueous solution of (+)-sodium potassium tartrate sesquihydrate (50 ml), which was stirred at room temperature for 1 hour. The precipitated crystals were filtered, washed in sequence with a 10% aqueous solution of (+)-sodium potassium tartrate sesquihydrate, pure water, and isopropyl ether, and air-dried to give crystals of 4-(3,4-dichlorophenyl)-2-(2-methyl-1-imidazolyl)-5-oxazolepropanol (0.46 g, 74%). Recrystallization from acetone-hexane gave pale yellow prisms. Melting point 140-141° C.

reactant | Methyl 4-(3,4-dichlorophenyl)-2-(2-methyl-1-imidazolyl)-5-oxazolepropionate | 0.67 g | ClC=1C=C(C=CC1Cl)C=1N=C(OC1CCC(=O)OC)N1C(=NC=C1)C | C17H15Cl2N3O3
reactant | (+)-sodium potassium tartrate sesquihydrate | 50 ml | O.C(=O)([O-])C(O)C(O)C(=O)[O-].[K+].[Na+].O.O.[Na+].[K+].C(=O)([O-])C(O)C(O)C(=O)[O-]
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 0.81 g | C1(=CC=CC=C1)C | C7H8
product | 4-(3,4-dichlorophenyl)-2-(2-methyl-1-imidazolyl)-5-oxazolepropanol | 0.46 g, 74% | ClC=1C=C(C=CC1Cl)C=1N=C(OC1CCCO)N1C(=NC=C1)C | C16H15Cl2N3O2
